US04591548
(f) 6-hydroxy-2H-1,4-benzoxazin-3-(4H)-one (Coupler 1)
30% sodium methoxide in methanol (18.4 g, 0.075 mole) was added under stirring to the 2-(α-chloroacetamido)-hydroquinone (13.4 g, 0.075 mole) in dimethylformamide (DMF 10 ml). The resulting solution was poured into water (150 ml) and the separated solid was Coupler (1) (9 g, 73%).

reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 0.075 mole, 18.4 g | CO | CH4O
reactant | 2-(α-chloroacetamido)-hydroquinone | 0.075 mole, 13.4 g | ClCC(=O)NC1=C(O)C=CC(=C1)O | C8H8ClNO3
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-hydroxy-2H-1,4-benzoxazin-3-(4H)-one | OC=1C=CC2=C(NC(CO2)=O)C1 | C8H7NO3
